US05246948
Synthesis of 4-[3-(4,5-dibromothenoylamino)propylthio]pyridine
To a solution of 2.55 g (8.91 mmol) of 4,5-dibromothiophene-2-carboxylic acid and 1.33 g (11.6 mmol) of N-hydroxysuccinimide in 90 ml of methylene chloride, 2.05 g (10.7 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 1 hour. Further, 1.50 g (8.91 mmol) of 4-(3-aminopropylthio)pyridine was added, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain powder. The powder thus obtained was washed with ether and dried to obtain 2.79 g of the desired compound (yield: 71.8%, colorless powder).

reactant | 4,5-dibromothiophene-2-carboxylic acid | 8.91 mmol, 2.55 g | BrC=1C=C(SC1Br)C(=O)O | C5H2Br2O2S
reactant | N-hydroxysuccinimide | 11.6 mmol, 1.33 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 10.7 mmol, 2.05 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(3-aminopropylthio)pyridine | 8.91 mmol, 1.50 g | NCCCSC1=CC=NC=C1 | C8H12N2S
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(4,5-dibromothenoylamino)propylthio]pyridine | 2.79 g, yield: 71.8% | BrC=1C=C(SC1Br)C(=O)NCCCSC1=CC=NC=C1 | C13H12Br2N2OS2
